US07902375B2
Step 1: [3-(N′-Acetyl-hydrazino)-3-oxo-propyl]-carbamic acid tert-butyl ester
EDCI.HCl (3.05 g, 15.95 mmol), HOBt (1.66 g, 12.27 mmol) and triethylamine (2.22 ml, 15.95 mmol) are added to a stirred solution of BOC-β-Ala-OH (2.32 g, 12.27 mmol) in DCM (60 ml). After stirring for 30 min at 0° C. acetic acid hydrazide (1.0 g, 13.5 mmol) is added in one portion. The reaction mixture is stirred at 0° C. for 1 hour. The reaction is diluted with water and extracted several times with DCM. The organic extract is dried (MgSO4) and the solvent is removed to give an oil. Purification by chromatography on silica, eluting with EtOAc increasing to EtOAc:EtOH 10:1, affords the titled compound.

reactant | EDCI.HCl | 15.95 mmol, 3.05 g | CCN=C=NCCCN(C)C.Cl
reactant | HOBt | 12.27 mmol, 1.66 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | triethylamine | 15.95 mmol, 2.22 ml | C(C)N(CC)CC | C6H15N
reactant | BOC-β-Ala-OH | 12.27 mmol, 2.32 g | N(CCC(=O)O)C(=O)OC(C)(C)C | C8H15NO4
reactant | acetic acid hydrazide | 13.5 mmol, 1.0 g | C(C)(=O)NN | C2H6N2O
solvent | DCM | 60 ml | C(Cl)Cl | CH2Cl2
solvent | water | O | H2O
product | [3-(N′-Acetyl-hydrazino)-3-oxo-propyl]-carbamic acid tert-butyl ester | C(C)(C)(C)OC(NCCC(=O)NNC(C)=O)=O | C10H19N3O4
